US06140320
Preparation of rel-(3S,5S)-7-Chloro-5-cyclopropylethynyl-1,5-dihydro-3-isopropyl-5-(trifluoromethyl)-4,1-benzoxazepin-2(3H)-one
To a stirred ice-cooled solution of 290 mg of 6-amino-3-chloro-α-cyclopropylethynyl-α-(trifluoromethyl)benzyl alcohol (Example 14, Part A) in 15 mL of dry ether was added 0.100 mL of dry pyridine and 228 mg of α-bromoisobutyryl chloride. After 30 min, the reaction mixture was diluted with ether, washed with water and aqueous sodium bicarbonate, dried and evaporated. The residue was dissolved in 15 mL of dry DMF, 268 mg of lithium iodide and 978 mg of cesium carbonate was added, and the resulting heterogeneous mixture was stirred at room temperature overnight. The reaction mixture was then poured onto water and etracted twice with ether. The combined extracts were washed with water and brine, dried and evaporated. Since TLC. showed the reaction had only gone halfway to completion, the crude product was redissloved in 15 mL of DMF and subjected to the same reaction conditions as above for another 24 h. After the same work-up, the crude product was purified by column chromatography over silica gel (elution with 5-15% ethyl acetate in hexanes) and then recrystallized from ethyl acetate/hexanes to give 45 mg of the title compound as colorless crystals: mp 167°; Anal. Calcd. for C18H17NO2F3Cl: C, 58.15; H, 4.62; N, 3.78. Found: C, 58.11; H, 4.59; N, 3.70.

reactant | 6-amino-3-chloro-α-cyclopropylethynyl-α-(trifluoromethyl)benzyl alcohol | 290 mg | NC1=CC=C(C=C1C(C(F)(F)F)(C#CC1CC1)O)Cl | C13H11ClF3NO
reactant | pyridine | 0.100 mL | N1=CC=CC=C1 | C5H5N
reactant | α-bromoisobutyryl chloride | 228 mg | BrC(C(=O)Cl)(C)C | C4H6BrClO
reactant | ether | 15 mL | CCOCC | C4H10O
product | rel-(3S,5S)-7-Chloro-5-cyclopropylethynyl-1,5-dihydro-3-isopropyl-5-(trifluoromethyl)-4,1-benzoxazepin-2(3H)-one | 45 mg | ClC=1C=CC2=C([C@](O[C@H](C(N2)=O)C(C)C)(C(F)(F)F)C#CC2CC2)C1 | C18H17ClF3NO2
